data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1401,1542,[CH3:10][C:11]([C:12]#[N:13])=[N+:14]([CH3:15])[C-:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[N:1]#[C:2][C:3]1=[CH:4][CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[N:1]#[C:2][C:3]1=[CH:4][CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:11]([CH3:10])([C:12]#[N:13])[N:14]([CH3:15])[C:16]3([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,19.14170194104716,-40.74767673318101
4645,5298,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[nH+:15][c:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[o:23][c:24]1=[O:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]2([C:12]([NH:11][CH3:10])=[O:13])[NH:15][C:16]1([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[O:23][C:24]2=[O:25],water,298.15,31.18314374573159,10.442481744199274
4003,4579,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[o+:15][c:16]([C:17]#[N:18])[o:19][c:20]1=[O:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]2([C:12]([NH:11][CH3:10])=[O:13])[O:15][C:16]1([C:17]#[N:18])[O:19][C:20]2=[O:21],water,298.15,9.669817172112452,-23.32178054985381
1903,2108,[CH3:13][C:14](=[O:15])[N-:16][NH+:17]=[C:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[N:16]([C:14]([CH3:13])=[O:15])[NH:17][C:18]2([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,24.423608914104552,-1.0497407617057923
4879,5563,[CH3:9][NH:10][C:11](=[O:12])[C:13](=[O+:14][N-:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[N:15]([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[O:14][C:13]1([C:11]([NH:10][CH3:9])=[O:12])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,14.472313517664311,-33.301440807761864
5093,5781,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23][CH3:24])[C:25](=[O:26])[NH:27][CH3:28]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]([C:18]([CH3:19])=[O:20])([C:21](=[O:22])[O:23][CH3:24])[O:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:25](=[O:26])[NH:27][CH3:28],water,298.15,17.74400022313452,-33.757359231570426
920,996,[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2.[CH:11]#[N+:12][C-:13]([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][O:2][C:3]12[C:4]([Br:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:13]([C:14]#[N:15])([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[N:12]=[CH:11]2,water,298.15,11.923573239514504,-51.27947383385125
2340,2598,[CH3:16][NH:17][C:18](=[O:19])[C:20](=[NH+:21][C-:22]([C:23]#[N:24])[C:25](=[O:26])[O:27][CH3:28])[C:29](=[O:30])[O:31][CH3:32].[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]#[C:8][C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]2=[C:8]([C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:22]([C:23]#[N:24])([C:25](=[O:26])[O:27][CH3:28])[NH:21][C:20]2([C:18]([NH:17][CH3:16])=[O:19])[C:29](=[O:30])[O:31][CH3:32],water,298.15,15.576967703616864,-44.796182442786005
2125,2359,[CH3:16][NH:17][C:18](=[O:19])[C:20](=[NH+:21][C-:22]([C:23]([CH3:24])=[O:25])[C:26]([CH3:27])=[O:28])[C:29]([CH3:30])=[O:31].[CH3:1][O:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[CH3:1][O:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:20]([C:18]([NH:17][CH3:16])=[O:19])([C:29]([CH3:30])=[O:31])[NH:21][C:22]2([C:23]([CH3:24])=[O:25])[C:26]([CH3:27])=[O:28],water,298.15,31.43734732364684,5.633001376384968
2377,2639,[CH3:15][NH:16][C:17](=[O:18])[C:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)=[N+:26]([CH3:27])[C-:28]([C:29]#[N:30])[C:31](=[O:32])[O:33][CH3:34].[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:19]([C:17]([NH:16][CH3:15])=[O:18])([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:26]([CH3:27])[C:28]2([C:29]#[N:30])[C:31](=[O:32])[O:33][CH3:34],water,298.15,39.73664342139488,2.085668273763654
3251,3674,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][CH:12]=[N+:13]([CH3:14])[N-:15][CH3:16]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[N:15]([CH3:16])[N:13]([CH3:14])[CH:12]2[CH3:11],water,298.15,24.02243050253548,-21.518523129221656
